US08871782B2
Ammonium hydroxide (0.5 mL) was added to a solution of 2-ethyl-1-(2-methylpropyl)-7-(2-morpholin-4-yl-2-oxoethoxy)-5-oxido-1H-imidazo[4,5-c]quinoline (0.53 g, 1.28 mmol) in dichloromethane (3 mL), and the mixture was cooled to 0° C. p-Toluenesulfonyl chloride (0.29 g, 1.5 mmol) was added in small portions over a period of 20 minutes. The reaction was stirred at ambient temperature overnight. The reaction mixture was partitioned between dichloromethane and 1% aqueous sodium carbonate. The organic fraction was washed with 1% aqueous sodium carbonate (2×30 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was recrystallized from ethyl acetate, isolated by filtration, washed with cold hexanes, and dried under high vacuum at 55° C. to provide 0.391 g of 2-ethyl-1-(2-methylpropyl)-7-(2-morpholin-4-yl-2-oxoethoxy)-1H-imidazo[4,5-c]quinolin-4-amine as off-white needles, mp 219-220° C.

reactant | Ammonium hydroxide | 0.5 mL | [OH-].[NH4+]
reactant | 2-ethyl-1-(2-methylpropyl)-7-(2-morpholin-4-yl-2-oxoethoxy)-5-oxido-1H-imidazo[4,5-c]quinoline | 1.28 mmol, 0.53 g | C(C)C=1N(C2=C(C=[N+](C=3C=C(C=CC23)OCC(=O)N2CCOCC2)[O-])N1)CC(C)C | C22H28N4O4
reactant | p-Toluenesulfonyl chloride | 1.5 mmol, 0.29 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2-ethyl-1-(2-methylpropyl)-7-(2-morpholin-4-yl-2-oxoethoxy)-1H-imidazo[4,5-c]quinolin-4-amine | 0.391 g | C(C)C=1N(C2=C(C(=NC=3C=C(C=CC23)OCC(=O)N2CCOCC2)N)N1)CC(C)C | C22H29N5O3
